US04312994
(±) 4-Trimethylsilyloxy-4-n-propyl-1-octyne
16.8 Grams of 4-hydroxy-4-n-propyl-1-octyne is dissolved in 100 ml of dimethylformamide and treated with 8 g of imidazole and then with 12 g of trimethylchlorosilane. The reaction mixture was stirred at room temperature for 1 hour and then poured into a mixture of ether and water. The organic layer was washed with water 3-4 times, dried over sodium sulfate, and stripped of solvent. Distillation of the residue gave the title product as a colorless liquid.

reactant | 4-hydroxy-4-n-propyl-1-octyne | OC(CC#C)(CCCC)CCC | C11H20O
reactant | imidazole | 8 g | N1C=NC=C1 | C3H4N2
reactant | trimethylchlorosilane | 12 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | ether | CCOCC | C4H10O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (±) 4-Trimethylsilyloxy-4-n-propyl-1-octyne | C[Si](OC(CC#C)(CCCC)CCC)(C)C | C14H28OSi
